US07745490B2
A solution of 2-methoxy-4-nitro-methanesulfonylaminobenzene (1 g) in methanol (20 ml) containing palladium on carbon (10%, 100 mg) was stirred at RT under hydrogen for 48 h. The mixture was filtered through celite then evaporated to give 2-methoxy-4-amino-methanesulfonylaminobenzene as a brown gum. This was used without purification in the following reaction.

reactant | 2-methoxy-4-nitro-methanesulfonylaminobenzene | 1 g | COC1=C(C=CC(=C1)[N+](=O)[O-])NS(=O)(=O)C | C8H10N2O5S
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 2-methoxy-4-amino-methanesulfonylaminobenzene | COC1=C(C=CC(=C1)N)NS(=O)(=O)C | C8H12N2O3S
